US08084448B2
5-(2-Hydroxy-4-piperidin-3-ylmethylphenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one
To a suspension of 3-[3-hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-piperidine-1-carboxylic acid tert-butyl ester (24 mg, 0.052 mmol) in ether (1.5 mL) is added 2 mL of HCl in dioxane (4 M) and the mixture is stirred at RT for 18 h. The solvent is removed under reduced pressure to give the hydrochloride salt of the title compound: (M−1)−=324.

reactant | 3-[3-hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.052 mmol, 24 mg | C(C)(C)(C)OC(=O)N1CC(CCC1)CC1=CC(=C(C=C1)N1S(NC(C1)=O)(=O)=O)O | C19H27N3O6S
reactant | HCl | 2 mL | Cl | ClH
solvent | ether | 1.5 mL | CCOCC | C4H10O
solvent | dioxane | 4 M | O1CCOCC1 | C4H8O2
product | 5-(2-Hydroxy-4-piperidin-3-ylmethylphenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | OC1=C(C=CC(=C1)CC1CNCCC1)N1CC(NS1(=O)=O)=O | C14H19N3O4S
